US07989449B2
In an analogous reaction sequence to that described for Building Block C, the treatment of 1-(4-difluoromethoxy-3-methyl-phenyl)-ethanone with 1,3-dibromo-5-ethoxymethyl-benzene beforehand reacted with n-butyllithium, yielded the (RS)-1-(3-bromo-5-ethoxymethyl-phenyl)-1-(4-difluoromethoxy-3-methyl-phenyl)-ethanol which was used as crude material in the following elimination reaction with a catalytic amount of p-toluenesulfonic acid to yield the title compound (yield: 47% of theory) as a light yellow oil. Mass (calculated) C19H19BrF2O2 [396]; (found) [M]+=396, 398.

reactant | 1-(4-difluoromethoxy-3-methyl-phenyl)-ethanone | FC(OC1=C(C=C(C=C1)C(C)=O)C)F | C10H10F2O2
reactant | 1,3-dibromo-5-ethoxymethyl-benzene | BrC1=CC(=CC(=C1)COCC)Br | C9H10Br2O
reactant | n-butyllithium | C(CCC)[Li]
product | (RS)-1-(3-bromo-5-ethoxymethyl-phenyl)-1-(4-difluoromethoxy-3-methyl-phenyl)-ethanol | BrC=1C=C(C=C(C1)COCC)C(C)(O)C1=CC(=C(C=C1)OC(F)F)C | C19H21BrF2O3
